US06825354B2
Ethyl{[4-(2-butynyloxy)phenyl]sulfanyl)(4-chlorophenyl)acetate was prepared according to the general method as outlined in example 1 (step 2), starting from ethyl (4-chlorophenyl)[(4-hydroxyphenyl)sulfanyl]acetate (15.37 g, 47.7 mmol) and 4-bromo-2-butyne (4.26 ml, 48.7 mmol); 12.57 g yellow oil. Yield 69%; MS(EI): 374 (M+H)+

reactant | ethyl (4-chlorophenyl)[(4-hydroxyphenyl)sulfanyl]acetate | 47.7 mmol, 15.37 g | ClC1=CC=C(C=C1)C(C(=O)OCC)SC1=CC=C(C=C1)O | C16H15ClO3S
reactant | 4-bromo-2-butyne | 48.7 mmol, 4.26 ml | BrCC#CC | C4H5Br
product | Ethyl{[4-(2-butynyloxy)phenyl]sulfanyl)(4-chlorophenyl)acetate | Yield 69% | C(C)OC(C(C1=CC=C(C=C1)Cl)SC1=CC=C(C=C1)OCC#CC)=O | C20H19ClO3S
